US07615643B2
Step A4—Methyl 5-[5-(1-methyl-1H-pyrazol-4-yl)-1H-benzoimidazol-1-yl]-3-[(phenylmethyl)oxy]-2-thiophenecarboxylate (Title Compound)
Methyl 5-{[4-(1-methyl-1H-pyrazol-4-yl)-2-nitrophenyl]amino}-3-[(phenylmethyl)oxy]-2-thiophenecarboxylate (1.0 g, 2.2 mmol) from a different batch than that made in Step A3, was dissolved In MeOH (30 mL). Trimethylorthoformate (6.0 mL, 54 mmol) was added followed by formic acid (0.81 ml, 21.5 mmol). Zinc dust (0.70 g, 11 mmol) was added and the reaction mixture was heated to 70° C. for 2 h and then cooled to rt. The reaction mixture was filtered through a pad of celite which was then washed with 20% MeOH/DCM. The crude reaction mixture was concentrated to remove the MeOH and the remaining mixture was poured into half-saturated aqueous NaHCO3 solution and then extracted with a mixture of 4:1 DCM:i-PrOH. The combined organics were dried over anhydrous MgSO4 and purified by flash chromatography to give 850 mg (89%) of the title compound, methyl 5-[5-(1-methyl-1H-pyrazol-4-yl)-1H-benzimidazol-1-yl]-3-[(phenylmethyl)oxy]-2-thiophenecarboxylate. MS (ESI): 445 [M+H]+

reactant | Methyl 5-{[4-(1-methyl-1H-pyrazol-4-yl)-2-nitrophenyl]amino}-3-[(phenylmethyl)oxy]-2-thiophenecarboxylate | 2.2 mmol, 1.0 g | CN1N=CC(=C1)C1=CC(=C(C=C1)NC1=CC(=C(S1)C(=O)OC)OCC1=CC=CC=C1)[N+](=O)[O-] | C23H20N4O5S
reactant | Trimethylorthoformate | 54 mmol, 6.0 mL | COC(OC)OC | C4H10O3
reactant | formic acid | 21.5 mmol, 0.81 ml | C(=O)O | CH2O2
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Zinc | 11 mmol, 0.70 g | [Zn] | Zn
product | Methyl 5-[5-(1-methyl-1H-pyrazol-4-yl)-1H-benzoimidazol-1-yl]-3-[(phenylmethyl)oxy]-2-thiophenecarboxylate | 850 mg, 89% | CN1N=CC(=C1)C1=CC2=C(N(C=N2)C2=CC(=C(S2)C(=O)OC)OCC2=CC=CC=C2)C=C1 | C24H20N4O3S
